### PR TITLE
Generalizing homo-mono-morphism lemmas and extremum

### PR DESCRIPTION
**Pull request by CohenCyril**
TODO after @amahboubi's review:
- [x] add extremum to header of `fintype.v` and explain how this was generalized in `ChangeLog`
- [x] rename all mentions to "homomorphism" or "monomorphism" to "order" or "monotonicity" in `path.v`, `ssrnat.v` and `ChangeLog`
- [x] comment the code to explain why so many `Let` in `ssrnat.v` and `ssrnum.v`

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -2,7 +2,7 @@
 (* Distributed under the terms of CeCILL-B.                                  *)
 Require Import mathcomp.ssreflect.ssreflect.
 From mathcomp
-Require Import ssrfun ssrbool eqtype ssrnat seq choice.
+Require Import ssrfun ssrbool eqtype ssrnat seq choice path.
 
 (******************************************************************************)
```
Comment (amahboubi) [inline mathcomp/ssreflect/fintype.v]: Please add an entry for extremum to the header.

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -891,3 +891,46 @@ End CycleArc.
 
 Prenex Implicits arc.
 
+Section Homomorphism.
```
Comment (amahboubi) [inline mathcomp/ssreflect/path.v]: I am a bit disturbed by the use of "homomorphism" here... I am aware that it is inherited from ssrfun, but I do not understand what is an homomorphism without an algebraic structure. This section is "just" about (almost) "sorted" lists. Changing the notation is a big change, I am just suggesting to rename the section here.

File: mathcomp/ssreflect/ssrnat.v [hunk 3]
```diff
@@ -1375,6 +1381,132 @@ rewrite -[4]/(2 * 2) -mulnA mul2n -addnn sqrnD; apply/leqifP.
 by rewrite ltn_add2r eqn_add2r ltn_neqAle !nat_Cauchy; case: ifP => ->.
 Qed.
 
+Section NatHomomorphism.
```
Comment (amahboubi) [inline mathcomp/ssreflect/ssrnat.v]: Similar remark about homomorphisms here.

File: mathcomp/ssreflect/ssrnat.v [hunk 4]
```diff
@@ -1375,6 +1381,132 @@ rewrite -[4]/(2 * 2) -mulnA mul2n -addnn sqrnD; apply/leqifP.
...
+
+Lemma homo_leq (f : nat -> T) (r : T -> T -> Prop) :
+   (forall x, r x x) -> (forall y x z, r x y -> r y z -> r x z) ->
+  (forall i, r (f i) (f i.+1)) -> {homo f : i j / i <= j >-> r i j}.
+Proof. by move=> rrefl /(@homo_leq_in predT f r) fr fS i j; apply: fr. Qed.
+
+Section NatToNat.
+Variable (f : nat -> nat).
+
+Let ltn_neqAle := ltn_neqAle.
```
Comment (amahboubi) [inline mathcomp/ssreflect/ssrnat.v]: Why this handful of Let?

File: ChangeLog [hunk 5]
```diff
@@ -1,6 +1,39 @@
 ??/??/???? - version 1.7.1
 	* Added companion matrix of a polynomial `companionmx p` and the
 	  theorems: companionmxK, map_mx_companion and companion_map_poly
+	* Extended generic theory about homomorphisms and monomophismes.
```
Comment (amahboubi) [inline ChangeLog]: I think that this line might be misleading (see below). It is not clear what a "homomorphism" is. And the `mono` in the {mono...} notation does not stand for monomorphism but for monotonic. If I am correct, a monomorphism is usually something else, e.g. an injective homomorphism. Plus in English there is no final 'e'.

File: mathcomp/algebra/ssrnum.v [hunk 6]
```diff
@@ -1265,173 +1275,260 @@ Implicit Types m n p : nat.
 Implicit Types x y z : R.
 Implicit Types u v w : R'.
 
+Let leqnn := leqnn.
```
Comment (amahboubi) [inline mathcomp/algebra/ssrnum.v]: Why this handful of Let (when the abbreviation and the name of the constant coincide)?

File: ChangeLog [hunk 7]
```diff
@@ -1,6 +1,39 @@
...
+	  homo_inj_lt -> inj_homo_ltr
+	  nhomo_inj_lt -> inj_nhomo_ltr
+	  homo_inj_ltn_lt -> inj_homo_ltnr
+	  nhomo_inj_ltn_lt -> inj_nhomo_ltnr
+	  homo_mono -> ler_mono
+	  nhomo_mono -> ler_nmono
+	* Added sorted_lt_nth, ltn_index, sorted_le_nth, leq_index.
+	* Added: [arg minr_( i < n | P ) F] and [arg maxr_( i < n | P ) F]
+	  with all their variants, following the same convention as for nat
+	* Generalized extremum_spec and its theory, added generic extremumP.
```
Comment (amahboubi) [inline ChangeLog]: Please explain in which direction it is generalized (from nat to eqtypes).

File: mathcomp/ssreflect/fintype.v [hunk 8]
```diff
@@ -971,19 +973,49 @@ apply: contraFF (no_i i) => /andP[Pi /eqP def_n]; rewrite /= Pi.
...
+Hypothesis ord_total : total ord.
+
+Definition extremum := odflt i0 (pick (arg_pred P F ord)).
+
+Hypothesis Pi0 : P i0.
+
+Lemma extremumP : extremum_spec P F ord extremum.
 Proof.
-rewrite /arg_max; case: pickP => [i /andP[Pi /forall_inP/= max_i] | no_i].
+rewrite /extremum; case: pickP => [i /andP[Pi /'forall_implyP/= min_i] | no_i].
```
Comment (amahboubi) [inline mathcomp/ssreflect/fintype.v]: What is /' doing here? Not a request but a real question :).

File: mathcomp/algebra/ssrnum.v [hunk 9]
```diff
@@ -129,6 +129,16 @@ Require Import bigop ssralg finset fingroup zmodp poly.
 (*   e : exterior = in [1, +oo[ or ]1; +oo[                                   *)
 (*   w : non strict (weak) monotony                                           *)
 (*                                                                            *)
+(* [arg minr_(i < i0 | P) M] == a value of i : T minimizing M : R, subject    *)
```
Comment (amahboubi) [inline mathcomp/algebra/ssrnum.v]: I would suggest "a value i : T" minimizing M..."
Also, what does the `arg` keyword refer to?

File: mathcomp/algebra/ssrnum.v [hunk 10]
```diff
@@ -129,6 +129,16 @@ Require Import bigop ssralg finset fingroup zmodp poly.
...
+(*                   to the condition P (i may appear in P and M), and        *)
+(*                   provided P holds for i0.                                 *)
+(* [arg maxr_(i > i0 | P) M] == a value of i maximizing M subject to P and    *)
```
Comment (amahboubi) [inline mathcomp/algebra/ssrnum.v]: "a value i maximizing M..."

File: ChangeLog (hunk 5 above)
Comment (amahboubi) [reply ChangeLog]: Sure, but I still think that the wording you added to the ChangeLog is misleading. It is not generic: it is about homo/mono morphism of *ordered* structures. See e.g. [homomorphism](https://en.wikipedia.org/wiki/Homomorphism). E.g. there is no equational theory preserved here. Adding that this is about order would address my comment. 

I have no complain about the name of the constants, and the comments in ssrfun are clear that they are about stability/morphism/homomorphism *for unary and binary relations*.

**Comment by amahboubi** [comment]
I am not sure it is the best place to discuss this but I still think that the litany of lemmas about compatibility with order in `ssrnum` is a nasty issue. For instance I rather often have to use that:
``x >= 0 -> y <= z ->  y * x <= z * x``.  I have never managed to remember that the name of this lemma is ``ler_wpmul2r``, and its statement is: 
```Lemma ler_wpmul2r x : 0 <= x -> {homo *%R^~ x : y z / y <= z}.```
which is brown belt ssr-style notation (mind the ``%R^~ x``), next to impossible to `Search` and quite hard to teach to a newbie.
It would be awesome to find a way to improve this...

**Comment by amahboubi** [comment]
Here is another difficult one, this time in `ssrint`:

``About ler_piexpz2l.

ler_piexpz2l :
forall (R : realFieldType) (x : R),
(0 < x)%R ->
(x < 1)%R ->
{in (>= 0)%R &, {mono exprz (R:=R) x : y x2 / (x2 <= y)%R >-> 
(y <= x2)%R}}

Expanded type for implicit arguments
ler_piexpz2l :
forall (R : realFieldType) (x : R),
(0 < x)%R ->
(x < 1)%R ->
forall x2 y : int_numDomainType,
x2 \in (>= 0)%R ->
y \in (>= 0)%R ->
(fun x3 : R => [eta (>= x3)%R]) (x ^ x2)%R (x ^ y)%R =
(fun y0 : int => <=%R%R^~ y0) x2 y``

File: ChangeLog (hunk 5 above)
Comment (CohenCyril) [reply ChangeLog]: > it is about homo/mono morphism of ordered structures

oh, right!

**Comment by amahboubi** [comment]
Another caveat: `{homo ... }` lemmas like the aforementionned `ler_wpml2r` should be `apply`ed, but the analogue for the strict relation, `ltr_pmul2r` is formulated as a `{mono ..}` predicate, and is a `rewrite` rule.

File: mathcomp/ssreflect/fintype.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: ok

File: mathcomp/ssreflect/ssrnat.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/ssrnat.v]: This is necessary until we have canonical structures for orders. It allows the subsequent proofs to be oneliners since all the necessary hypotheses are in context and can thus be found by `ssrdone`.

File: mathcomp/algebra/ssrnum.v (hunk 6 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssrnum.v]: This is helping `ssrdone` concluding every subsequent proofs. (I definitely should put comments)

File: mathcomp/ssreflect/fintype.v (hunk 8 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: This is a use of the view (`/`) named `'forall_implyP`

Comment (amahboubi) [reply mathcomp/ssreflect/fintype.v]: Amazing, I did not know this (family of) view(s), or may be I forgot about it. It's been too long since I worked finite objects it seems... Sorry for the noise and thanks for the answer.

Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: Off-topic: this family proved useful to me and should be complete with `'forall_in_`, etc... variants.
Alternatively/Additionally, @bgregoir and @gares have an experiment on automated views using typeclasses that I would much like to see as a PR here.

**Comment by CohenCyril** [comment]
> Another caveat: `{homo ... }` lemmas like the aforementionned `ler_wpml2r` should be `apply`ed, [...]

This is not completely true, most `{homo ...}` lemma can be rewritten with they are rules of the form `_ <= _ = true` with preconditions...

File: mathcomp/ssreflect/fintype.v (hunk 8 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: @bgregoir @gares do you think you could open a PR about these?

Comment (gares) [reply mathcomp/ssreflect/fintype.v]: Benjamin did use it for a while, but it found it unsatisfactory (eg see the vlevel business)
The code is here: https://github.com/gares/autoview
Maybe you could try to use it here and see how it goes.

Comment (gares) [reply mathcomp/ssreflect/fintype.v]: The point is: you have 5 variants (only logical, recursive, under binders, ...) but sometimes none fits, eg they go too deep or too shallow :-/
At least, this was the argument Benjamin communicated me in private.

 For your use case you probably have what you need.

Comment (gares) [reply mathcomp/ssreflect/fintype.v]: If it works for you I can make a PR and write some doc (the .v file is not too bad).
Now that I think about it, other users were interested.

**Comment by CohenCyril** [comment]
@amahboubi I addressed your requests, should we merge?

File: mathcomp/ssreflect/fintype.v (hunk 8 above)
Comment (amahboubi) [reply mathcomp/ssreflect/fintype.v]: HI @CohenCyril, @gares, I am about to merge the present PR, but I would like to keep a pointer on this conversion, so that we keep track of this benchmark for the autoview experiment. What is the best way of doing so?

Comment (amahboubi) [reply mathcomp/ssreflect/fintype.v]: done.
